US06730754B2
(c) Synthesis of Chlorodimethyl(N-methyl-2-methoxy-5,6-dihydroindeno[2,1-b]indol-6-yl)silane
3.4 mL of a 2.5 M solution of n-BuLi in hexane (8.50 mmol) were added dropwise to a solution of 2.22 g of N-methyl-2-methoxy-5,6-dihydroindeno[2,1-b]indole, obtained as reported above, (Mw=249.32, purity 85.8%, 7.64 mmol; indenoindole: n-BuLi=1:1.1) in 50 mL of THF, previously cooled to −78° C. At the end of the addition, the brown solution was allowed to warm up to room temperature and stirred for 5 hours. Then it was cooled again to −78° C. and added dropwise to a solution of dichlorodimethylsilane (Mw=129.06, d=1.064, 0.92 mL, 7.64 mmol; indenoindole: Me2SiCl2=1:1) in 20 mL of THF, previously cooled to −78° C. At the end of the addition, the dark brown solution was allowed to warm up to room temperature and stirred overnight. The solvents were evaporated under reduced pressure to give the desired product, containing few by-products, in the form of a brown sticky solid; this product was used in the following step without further purification.

reactant | n-BuLi | [Li]CCCC
reactant | hexane | 8.50 mmol | CCCCCC | C6H14
reactant | N-methyl-2-methoxy-5,6-dihydroindeno[2,1-b]indole | 2.22 g | CN1C2=C(C3=CC(=CC=C13)OC)C1=CC=CC=C1C2 | C17H15NO
reactant | indenoindole | N1=CC=C2C=CC=3C(=C12)C=C1C=CC=CC13 | C15H9N
reactant | dichlorodimethylsilane | 7.64 mmol, 0.92 mL | Cl[Si](C)(C)Cl | C2H6Cl2Si
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Chlorodimethyl(N-methyl-2-methoxy-5,6-dihydroindeno[2,1-b]indol-6-yl)silane | Cl[Si](C1C2=CC=CC=C2C2=C1N(C1=CC=C(C=C21)OC)C)(C)C | C19H20ClNOSi
